US06451814B1
Dimethyl-carbamic Acid 4-(2-{[4-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-amino}-ethyl)-phenyl Ester
4-{2-[({4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl)carbonyl)amino]ethyl}phenyl dimethylcarbamate (0.22 g, 0.256 mmol) was reacted according to Procedure H (eluant: 10:1 chloroform-methanol) to give the title compound (0.09 g, 0.145 mmol).

reactant | 4-{2-[({4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-1-piperidinyl)carbonyl)amino]ethyl}phenyl dimethylcarbamate | 0.256 mmol, 0.22 g | CN(C(OC1=CC=C(C=C1)CCNC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O)=O)C | C50H63N5O6Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | Dimethyl-carbamic Acid 4-(2-{[4-(4-{2-[(2S)-2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-amino}-ethyl)-phenyl Ester | 0.145 mmol, 0.09 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)NCCC1=CC=C(C=C1)OC(N(C)C)=O)COC1=CC=C(C=C1)O | C34H45N5O6
